US04327100
(a) 2-[2-(2-Phenylthio-ethoxy)-4-methoxyphenyl]-imidazo[4,5-b]pyridine
A solution of 2.0 gm (0.036 mol) of sodium methylate in 50 ml of absolute methanol was admixed with 1.85 ml (0.018 mol) of thiophenol and 4.6 gm (0.015 mol) of 2-[2-(2-chloroethoxy)-4-methoxyphenyl]imidazo[4,5-b]pyridine hydrochloride. After refluxing for 4 hours, the reaction mixture was evaporated in vacuo, the residue was dissolved in water/methylene chloride, and the organic phase was separated and dried over magnesium sulfate. A pre-purification was carried out on 50 gm of silicagel with methylene chloride/acetone (100:0 to 80:20). The product was used in the next step without further purification.

reactant | sodium methylate | 0.036 mol, 2.0 gm | C[O-].[Na+]
reactant | thiophenol | 0.018 mol, 1.85 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 2-[2-(2-chloroethoxy)-4-methoxyphenyl]imidazo[4,5-b]pyridine hydrochloride | 0.015 mol, 4.6 gm | Cl.ClCCOC1=C(C=CC(=C1)OC)C=1NC=2C(=NC=CC2)N1
solvent | methanol | 50 ml | CO | CH4O
product | 2-[2-(2-Phenylthio-ethoxy)-4-methoxyphenyl]-imidazo[4,5-b]pyridine | C1(=CC=CC=C1)SCCOC1=C(C=CC(=C1)OC)C=1NC=2C(=NC=CC2)N1 | C21H19N3O2S
